US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-(indanone-7-oxy)-pyrazine, CJS 513
Using Method EE with 2-chloro-6-(indanone-7-oxy)-pyrazine (200 mg, 0.77 mmol) and 169 mg (0.92 mmol) 3,4,5-trimethoxyaniline (169 mg, 0.92 mmol), and purification by column chromatography (AcOEt), the title compound was obtained (11 mg). Yield: 4%.

reactant | 2-chloro-6-(indanone-7-oxy)-pyrazine | 0.77 mmol, 200 mg | ClC1=NC(=CN=C1)OC=1C=CC=C2CCC(C12)=O | C13H9ClN2O2
reactant | 3,4,5-trimethoxyaniline | 0.92 mmol, 169 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-(indanone-7-oxy)-pyrazine | Yield: 4% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC=1C=CC=C2CCC(C12)=O | C22H21N3O5
